2178-10-03 11:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 y/o m with h/o COPD, hypercarbic resp failure, s/p trach, morbid
   obesity p/w hypotension from [**Hospital 7922**] Rehab.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2178-10-2**] 08:30 AM
 ULTRASOUND - At [**2178-10-2**] 12:48 PM
   TTE: Unchanged RV dysfunction
   Heparin gtt d/c'd.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-10-3**] 06:00 AM
   Vancomycin - [**2178-10-3**] 08:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2178-10-3**] 05:35 AM
   Hydromorphone (Dilaudid) - [**2178-10-3**] 07:30 AM
   Other medications:
   Colace, Lansoprazole, Lido patch, clonapin, fentanyl patch,
   beclomethasone, mucomyst
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-3**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 96 (84 - 114) bpm
   BP: 114/63(80) {88/46(59) - 138/86(105)} mmHg
   RR: 27 (24 - 56) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,440 mL
                                                                  1,094 mL
   PO:
             TF:
                                                                    172 mL
                                                                    320 mL
   IVF:
                                                                  1,958 mL
                                                                    455 mL
   Blood products:
   Total out:
                                                                  4,805 mL
                                                                  1,800 mL
   Urine:
                                                                  4,805 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,365 mL
                                                                   -705 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (450 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   Compliance: 26.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/60/64/35/10
   Ve: 20.8 L/min
   PaO2 / FiO2: 128
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   180 K/uL
   89 mg/dL
   1.2 mg/dL
   35 mEq/L
   4.0 mEq/L
   39 mg/dL
   110 mEq/L
   151 mEq/L
   26.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2178-10-2**]  02:42 AM
                             [**2178-10-2**]  09:56 AM
                             [**2178-10-2**]  02:06 PM
                             [**2178-10-2**]  02:10 PM
                             [**2178-10-2**]  02:41 PM
                             [**2178-10-2**]  03:17 PM
                             [**2178-10-2**]  11:25 PM
                             [**2178-10-3**]  03:39 AM
                             [**2178-10-3**]  03:51 AM
                             [**2178-10-3**]  09:45 AM
   WBC
   8.7
   Hct
   28.0
   27.2
   25.6
   25.4
   26.9
   Plt
   180
   Cr
   1.2
   TropT
   0.12
   TCO2
   33
   39
   38
   39
   Glucose
   89
   Other labs: PT / PTT / INR:/150.0/, CK / CKMB / Troponin-T:48/7/0.12,
   ALT / AST:[**9-27**], Alk Phos / T Bili:69/0.2, Differential-Neuts:81.0 %,
   Band:0.0 %, Lymph:10.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.8
   mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   Plan:
   1. Sepsis: Either [**3-9**] line infection vs. PNA vs. UTI
   -f/u sputum culture for Proteus
   -UCx with ESBL
   -vanco/meropenem
   -add [**Female First Name (un) **] if necessary
   -MAP >60
   2. Resp failure: COPD, fibrosis, possible acute PNA
   -cont. PNA tx
   -try PS, goal PCO2 60-70
   -goal sats 90-94%
   3. Hypernatremia:
   -unclear if casusing AMS, unclear if correct
   -recheck [**Name (NI) **]
   -if true will need aggressive FW repletion
   4. CRF: Cr improved since d/c
   5. FEN: TF
   6. Anemia: No gross bleeding, now off heparin
   7. Ulcer: Consult wound care
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-10-2**] 05:08 PM 35 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   16 Gauge - [**2178-10-1**] 10:27 PM
   Arterial Line - [**2178-10-1**] 10:28 PM
   Multi Lumen - [**2178-10-1**] 10:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  51 y/o obese  m with h/o COPD and IPF,
   recent hospitalization with hypercarbic resp failure, s/p trach,
   presents from rehab with septic shock  from esbl uti/line infection,
   and pna.  Heparin gtt stopped (LENIs neg, no acute change in RV by
   TEE). Remains on levophed.
   99.6  96 140/86  98% ACV
   Obese M, intubated and sedated, coarse BS< RR, + BS, soft, trace edema
   Labs as above.
   Agree with plan to treat sepsis with continuing broad antibx with
   vanco/[**Last Name (un) **] following cx data. He is now maintaining BP MAPS > 60 off
   pressor support. Continue AC vent support.  Has significant deadspace
   which is likely from underlying RLL pna and emphysema/fibrosis and does
   not appear related to PE. His MS is altered/waxing and [**Doctor Last Name 282**]  Unclear
   if this could be related to his acute hypernatremia. Monitor neuro
   exam. Correct free water deficit with D5.   Follow h/h off heparin gtt.
   Remainder of plan as outlined in resident note.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2178-10-3**] 17:22 ------

2178-10-04 12:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 y/o m with morbid obesity, emphesema, pulm fibrosis here with sepsis
   and resp failure.
   24 Hour Events:
   Overnight had tachypnea to 34 and dysynchrony and ABG was 7.32/77/48.
   TV was increased to 600, PIPs were 40-50, so decreased back to 500.
   Now PIP is 37 Pl is 34.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-10-4**] 06:07 AM
   Vancomycin - [**2178-10-4**] 08:22 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-10-3**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2178-10-4**] 08:01 AM
   Lorazepam (Ativan) - [**2178-10-4**] 11:20 AM
   Other medications:
   Colace, Lido patch, clonapin, SSi, atrovent, beclomethasone, hep sc,
   dilaudid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-4**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 78 (64 - 104) bpm
   BP: 100/54(70) {98/54(70) - 133/75(95)} mmHg
   RR: 37 (20 - 41) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 148.3 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  4,530 mL
                                                                  4,004 mL
   PO:
             TF:
                                                                    930 mL
                                                                    513 mL
   IVF:
                                                                  2,470 mL
                                                                  2,441 mL
   Blood products:
   Total out:
                                                                  3,840 mL
                                                                  1,380 mL
   Urine:
                                                                  3,840 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    690 mL
                                                                  2,624 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 40 cmH2O
   Plateau: 33 cmH2O
   Compliance: 23.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.30/80.[**Numeric Identifier 500**]/66/34/8
   Ve: 22.4 L/min
   PaO2 / FiO2: 132
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   154 K/uL
   129 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.5 mEq/L
   29 mg/dL
   107 mEq/L
   149 mEq/L
   24.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2178-10-2**]  03:17 PM
                             [**2178-10-2**]  11:25 PM
                             [**2178-10-3**]  03:39 AM
                             [**2178-10-3**]  03:51 AM
                             [**2178-10-3**]  09:45 AM
                             [**2178-10-3**]  11:14 PM
                             [**2178-10-4**]  12:33 AM
                             [**2178-10-4**]  02:13 AM
                             [**2178-10-4**]  04:09 AM
                             [**2178-10-4**]  04:22 AM
   WBC
   8.7
   9.8
   Hct
   25.6
   25.4
   26.9
   24.4
   Plt
   180
   154
   Cr
   1.2
   0.9
   TCO2
   38
   39
   42
   41
   40
   41
   Glucose
   89
   129
   Other labs: PT / PTT / INR:13.1/31.4/1.1, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:[**9-27**], Alk Phos / T Bili:69/0.2,
   Differential-Neuts:81.0 %, Band:0.0 %, Lymph:10.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   Plan:
   1. Sepsis: Possible line infection vs. UTI vs. PNA
   -cont. abx for all of the above
   2. Resp failure: COPD and fibrosis
   -consider steroids
   -standing albuterol MDI qid
   -cont beclomethasone
   -follow mechanics
   -will need trach change likely by IP Monday
   3. Hypernatremia: Dehydration
   -D5 150/h
   -FW 350 cc q4h
   -recheck Na at 4pm
   4. Afib: Not currently
   -anticoag containdicated
   -holding metoprolol since recent hypotensive
   5. aline, fem line: plan PICC Monday
   6. Clarify goals of care: speak to HCP, touch base with Dr. [**Last Name (STitle) **]
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-10-2**] 05:08 PM 45 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2178-10-1**] 10:27 PM
   Arterial Line - [**2178-10-1**] 10:28 PM
   Multi Lumen - [**2178-10-1**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes

2178-10-05 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Hypotension
   24 Hour Events:
   [**10-4**]:
   - tolerated the vent better, had episodes of hypoxia that responded to
   suctioning of thick, copious secretions
   - stayed off pressors
 restarted on norepi this am
   - spoke briefly to HCP: he will be in on [**Name (NI) 305**] morning, wants to speak
   to attending, specifically re: patient's prognosis from pulmonary
   perspective.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-10-4**] 08:22 AM
   Meropenem - [**2178-10-5**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2178-10-4**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2178-10-4**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-10-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 83 (71 - 104) bpm
   BP: 104/62(76) {85/52(60) - 146/86(105)} mmHg
   RR: 30 (20 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 148.3 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  5,848 mL
                                                                    521 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    344 mL
   IVF:
                                                                  3,307 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    500 mL
   Urine:
                                                                  1,950 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,898 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   RR (Set): 28
   RR (Spontaneous): 4
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: RR >35
   PIP: 36 cmH2O
   Plateau: 31 cmH2O
   Compliance: 23.9 cmH2O/mL
   SpO2: 94%
   ABG: 7.26/86.[**Numeric Identifier **]/64/34/8
   Ve: 16.2 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   171 K/uL
   7.6 g/dL
   88 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.2 mEq/L
   26 mg/dL
   106 mEq/L
   144 mEq/L
   26.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2178-10-3**]  03:51 AM
                             [**2178-10-3**]  09:45 AM
                             [**2178-10-3**]  11:14 PM
                             [**2178-10-4**]  12:33 AM
                             [**2178-10-4**]  02:13 AM
                             [**2178-10-4**]  04:09 AM
                             [**2178-10-4**]  04:22 AM
                             [**2178-10-4**]  10:42 PM
                             [**2178-10-5**]  04:32 AM
                             [**2178-10-5**]  04:56 AM
   WBC
   9.8
   10.0
   Hct
   26.9
   24.4
   26.1
   Plt
   154
   171
   Cr
   0.9
   0.8
   TCO2
   39
   42
   41
   40
   41
   41
   41
   Glucose
   129
   88
   Other labs: PT / PTT / INR:12.2/31.2/1.0, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:[**9-27**], Alk Phos / T Bili:69/0.2,
   Differential-Neuts:81.0 %, Band:0.0 %, Lymph:10.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Cx
[**10-1**]-
   GRAM STAIN (Final [**2178-10-2**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      UNABLE TO R/O OTHER PATHOGENS DUE TO OVERGROWTH OF SWARMING PROTEUS
      SPP..
      UNABLE TO DEFINITIVELY DETERMINE THE PRESENCE OR ABSENCE OF
      OROPHARYNGEAL FLORA.
      PROTEUS MIRABILIS.    SPARSE GROWTH.  PRESUMPTIVE IDENTIFICATION.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PROTEUS MIRABILIS
                             |
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     4 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN----------     8 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R
   [**10-1**]- Urine, enterococcus
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML..
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |
AMIKACIN--------------   <=2 S
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFTRIAXONE-----------  =>64 R
CEFUROXIME------------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------   128 R
PIPERACILLIN/TAZO-----    64 I
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R
   [**10-2**]- blood cx
pending x 2
   [**10-2**]- wound cx
 no growth to date
   Mr. [**Known lastname 6949**] is a 51 year-old man with a history of chronic hypercapneic
   respiratory failure s/p trach, COPD, and morbid obesity who presented
   from [**Hospital **] Rehab with urosepsis, and possible pneumonia.
   # Hypotension/?Sepsis:  Acute hypotension is likely related to sepsis
   given coag neg staph in blood cultures and ESBL klebsiella in urine
   culture.  Pneumonia also possible source.  There may be a component of
   beta blocker toxicity but this seems unlikely considering that patient
   was stable on his current regimen for three days and was not
   bradycardic on presentation.  The differential also includes opiate
   effect, decompensated heart failure, PE, and tamponade, though no
   pulsus.
   - on norepinephrine this am after being off all night
   - f/u blood cx from periphery and PICC
   - f/u cx for right flank ulcer
   - f/u sputum and urine cx
   - cont vanc and meropenem; low threshold to start tobramycin
   - Hold Vanc (was 58 yesterday evening, 51 yest morning).  Recheck
   trough today
   # Hypoxic/Hypercapneic respiratory failure: Multifactoral respiratory
   failure secondary to obstructive COPD and restrictive lung disease and
   obesity hypoventolation, s/p tracheostomy on [**2178-8-13**].  Possible CHF vs
   pna on CXR, and recently treated for pseudomonas VAP.  ABG c/w chronic
   respiratory acidosis with PCO2 near baseline of 70s.  On FiO2 of 40% at
   rehab.
   - sputum cx w proteus, sensitivities pnd.
   - albuterol, ipratropium bronchodilators standing doses
   - will diurese once BP stable
   - AC/CMV
   - goal sats 92%
   - if destabilizes consider tobramycin
   - Opiates as needed for air hunger
   # Hypernatremia: Improved with D5W fluid boluses yesterday
   - Continue free water TF, D5W bolus: goal decrease 0.5/hr
   - Recheck Na at 4 PM
   # Altered mental status: improved since admission, neg RPR, nl FT4 and
   B12.
   - if seizes then neuro c/s.
   # Chronic kidney injury:  Cr of 1.3 is improved from creatinine at last
   discharge of 2 and has had elevated Cr during recent hospitalizations.
   Cr baseline was 0.6 in [**2178-8-5**].  History of AIN.
   - renally dose meds
   - continue to trend creatinine
   # Atrial fibrillation:  Was on metoprolol at rehab for rate control,
   not on warfarin secondary to history of RP bleed.  CHADS score of 0.
   - holding metoprolol in setting of hypotension
   - no anticoagulation for now but would consider aspirin
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-10-4**] 07:56 PM 45 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2178-10-1**] 10:27 PM
   Arterial Line - [**2178-10-1**] 10:28 PM
   Multi Lumen - [**2178-10-1**] 10:29 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  HCP is [**Name (NI) **] [**Name (NI) 3231**] [**Telephone/Fax (1) **], younger brother.
   Meeting today.
   Code status: Full code
   Disposition: ICU for now

2178-10-05 10:24:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51M with morbid obesity, chronic respiratory failure from end-stage
   lung disease, vent dependent, presents with hypotension from rehab:
   24 Hour Events:
   -episodes of hypoxia, improved with suctioning
   -pressors off
   -HCP coming today
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-10-4**] 08:22 AM
   Meropenem - [**2178-10-5**] 06:00 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2178-10-4**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2178-10-4**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-10-5**] 12:00 AM
   Other medications:
   Colace, lansopr, mg, lido td, clonaz, riss, [**Last Name (un) **],
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO, Tube feeds
   Respiratory: Tachypnea
   Genitourinary: No(t) Dysuria, Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-10-5**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 87 (71 - 104) bpm
   BP: 107/67(80) {85/52(60) - 146/86(105)} mmHg
   RR: 30 (20 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 148.3 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  5,848 mL
                                                                    647 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    437 mL
   IVF:
                                                                  3,307 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    800 mL
   Urine:
                                                                  1,950 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,898 mL
                                                                   -153 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: RR >35
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   Compliance: 26.2 cmH2O/mL
   SpO2: 95%
   ABG: 7.26/86.[**Numeric Identifier **]/64/34/8
   Ve: 15.9 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic, trach and peg
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: throughout but more
   clear than before)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   171 K/uL
   88 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.2 mEq/L
   26 mg/dL
   106 mEq/L
   144 mEq/L
   26.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2178-10-3**]  03:51 AM
                             [**2178-10-3**]  09:45 AM
                             [**2178-10-3**]  11:14 PM
                             [**2178-10-4**]  12:33 AM
                             [**2178-10-4**]  02:13 AM
                             [**2178-10-4**]  04:09 AM
                             [**2178-10-4**]  04:22 AM
                             [**2178-10-4**]  10:42 PM
                             [**2178-10-5**]  04:32 AM
                             [**2178-10-5**]  04:56 AM
   WBC
   9.8
   10.0
   Hct
   26.9
   24.4
   26.1
   Plt
   154
   171
   Cr
   0.9
   0.8
   TCO2
   39
   42
   41
   40
   41
   41
   41
   Glucose
   129
   88
   Other labs: PT / PTT / INR:12.2/31.2/1.0, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:[**9-27**], Alk Phos / T Bili:69/0.2,
   Differential-Neuts:81.0 %, Band:0.0 %, Lymph:10.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging:
   CXR: The tracheostomy tip is 5.5 cm above the carina. The
   cardiomediastinal
   silhouette and widespread parenchymal abnormalities are unchanged since
   [**10-4**], [**2178**] and overall are unchanged also compared to [**2178-10-2**]
   including
   known left lower lobe consolidation. Small amount of pleural effusion
   cannot
   be excluded. No evidence of pneumothorax is present.
   LENIS: No evidence of deep vein thrombosis.
   Microbiology: ucx: klebs, esbl
   Sputum:
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   51M with morbid obesity, chronic respiratory failure from end-stage
   lung disease, vent dependent, presents with hypotension from rehab.
   Stabilizing over the last several days, but new hypotension this am.
   Concern for recurrent pseudomonas PNA after treatment of proteus.
   For now will continue carbopenem for ESBL klebsiella in urine,
   vancomycin for coag negative staph. Will consider restarting tobramycin
   after obtaining sputum specimens. Pressor support in the meantime. [**Month (only) 11**]
   need ID input.
   Prognosis remains poor. Will continue discussion with HCP today.
   [**Name2 (NI) **] to discharge need to change trach and will need PICC/midline for
   abx.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-10-4**] 07:56 PM 45 mL/hour
   Glycemic Control:  RISS
   Lines:
   16 Gauge - [**2178-10-1**] 10:27 PM
   Arterial Line - [**2178-10-1**] 10:28 PM
   Multi Lumen - [**2178-10-1**] 10:29 PM
   ->need new PICC
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2178-10-06 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   [**10-5**]:
   Unable to place bedside picc. Will need IR guided placement.
   -had mucus plug and vent briefly popped off, CXR showed  slight
   increase in LLL opacity that was consistent with recent CT scan of
   chest
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-10-4**] 08:22 AM
   Meropenem - [**2178-10-6**] 05:44 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-10-6**] 12:07 AM
   Hydromorphone (Dilaudid) - [**2178-10-6**] 01:22 AM
   Lorazepam (Ativan) - [**2178-10-6**] 04:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-6**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 65 (64 - 87) bpm
   BP: 93/52(67) {73/46(60) - 128/120(124)} mmHg
   RR: 29 (26 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 148.3 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  1,956 mL
                                                                    516 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    340 mL
   IVF:
                                                                    557 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,040 mL
                                                                    880 mL
   Urine:
                                                                  2,040 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -84 mL
                                                                   -364 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 42 cmH2O
   Plateau: 30 cmH2O
   SpO2: 97%
   ABG: 7.33/74/67/37/8
   Ve: 22.1 L/min
   PaO2 / FiO2: 112
   Physical Examination
   Trach in place
   Nods head to simple questions, does not follow commands otherwise
   Obese
   Edema in [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 7961**] tone of extremites
   Labs / Radiology
   142 K/uL
   6.8 g/dL
   79 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.5 mEq/L
   26 mg/dL
   108 mEq/L
   149 mEq/L
   23.2 %
   8.3 K/uL
        [image002.jpg]
                             [**2178-10-4**]  12:33 AM
                             [**2178-10-4**]  02:13 AM
                             [**2178-10-4**]  04:09 AM
                             [**2178-10-4**]  04:22 AM
                             [**2178-10-4**]  10:42 PM
                             [**2178-10-5**]  04:32 AM
                             [**2178-10-5**]  04:56 AM
                             [**2178-10-5**]  08:27 PM
                             [**2178-10-6**]  05:27 AM
                             [**2178-10-6**]  05:45 AM
   WBC
   9.8
   10.0
   8.3
   Hct
   24.4
   26.1
   23.2
   Plt
   154
   171
   142
   Cr
   0.9
   0.8
   0.7
   TCO2
   41
   40
   41
   41
   41
   34
   41
   Glucose
   129
   88
   79
   Other labs: PT / PTT / INR:12.2/31.2/1.0, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:[**9-27**], Alk Phos / T Bili:69/0.2,
   Differential-Neuts:81.0 %, Band:0.0 %, Lymph:10.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Sputum [**10-5**]- GNR on gram stain
   Blood 8/28, [**10-5**] no growth
   Urine [**10-5**] no growth
   Assessment and Plan
   Mr. [**Known lastname 6949**] is a 51 year-old man with a history of chronic hypercapneic
   respiratory failure s/p trach, COPD, and morbid obesity who presented
   from [**Hospital **] Rehab with urosepsis, coag neg staph bacteremia and
   possible pneumonia superimposed on severe lung disease.
   # Hypotension/?Sepsis:  Acute hypotension is likely related to sepsis
   given coag neg staph in blood cultures and ESBL klebsiella in urine
   culture.  Pneumonia also possible source.
   - on norepinephrine this am after being off all night
   - cont vanc and meropenem
   - Resend sputum cultures, blood cultures, urine cultures
   - Consider restarting  tobramycin for h/o resistant pseudomonal
   infection
   - Have held Vanc x2d d/t elev trough. Vanc trough today 48.9
   - Place PICC for antibiotics
   - Pull femoral line today
   # Hypoxic/Hypercapneic respiratory failure: Multifactoral respiratory
   failure secondary to obstructive COPD and restrictive lung disease and
   obesity hypoventolation, s/p tracheostomy on [**2178-8-13**].  Possible pna on
   CT chest, and recently treated for pseudomonas VAP.  ABG c/w chronic
   respiratory acidosis with PCO2 near baseline of 70s.  On FiO2 of 40% at
   rehab, now requiring FiO2 60%. Dead space was calculated at 85% by
   respiratory.
   - infectious w/u as above
   - albuterol, ipratropium bronchodilators standing
   - will diurese once BP stable
   - AC/CMV, goal sats 92%
   - if destabilizes consider tobramycin
   - Opiates as needed for air hunger
   - Will need different trach when stable (current trach not stable for
   travel, was placed by thoracics)
   # Hypernatremia: Na 149. Will calc free H20 deficit
   - Continue free water in tube feeds; change free water to q4h
   - Recheck Na at 4 PM
   # Anemia: Hct has slowly decreased from 29 to 23, may be secondary to
   phlebotomy and chronic illness
   - recheck hct, transfuse if hct<22
   - check retic ct
   - guaiac stools
   - type and screen
   - transfuse for hct <21 or if hypotensive
   # Altered mental status: improved since admission, neg RPR, nl FT4 and
   B12. Continue infectious treatment as above.
   # Chronic kidney injury:  Cr of 1.3 is improved from creatinine at last
   discharge of 2 and has had elevated Cr during recent hospitalizations.
   Cr baseline was 0.6 in [**2178-8-5**].  History of AIN. Now with Cr 0.8.
   - renally dose meds
   - continue to trend creatinine
   # Atrial fibrillation:  Was on metoprolol at rehab for rate control,
   not on warfarin secondary to history of RP bleed.  CHADS score of 0.
   - holding metoprolol in setting of hypotension
   - no anticoagulation for now but would consider aspirin
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-10-4**] 07:56 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM
   Multi Lumen - [**2178-10-1**] 10:29 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-10-06 11:18:00 Physician Attending Progress Note
Chief Complaint: UTI, CNS bacteremia, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable awaiting PICC catheter. Continued thick secretions.
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-10-4**] 08:22 AM
   Meropenem - [**2178-10-6**] 05:44 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-10-6**] 12:07 AM
   Hydromorphone (Dilaudid) - [**2178-10-6**] 01:22 AM
   Lorazepam (Ativan) - [**2178-10-6**] 04:09 AM
   Other medications:
   notable: lansoprazole, beclemethasone inh, fentanyl and lidocaine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-6**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 82 (64 - 83) bpm
   BP: 101/68(82) {73/46(60) - 128/120(124)} mmHg
   RR: 25 (23 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 160 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  1,956 mL
                                                                  1,350 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    491 mL
   IVF:
                                                                    557 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                  2,040 mL
                                                                    880 mL
   Urine:
                                                                  2,040 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -84 mL
                                                                    470 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 39 cmH2O
   Plateau: 32 cmH2O
   SpO2: 100%
   ABG: 7.33/74/67/37/8
   Ve: 17.6 L/min
   PaO2 / FiO2: 67
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , No(t) Absent : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   142 K/uL
   79 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.5 mEq/L
   26 mg/dL
   108 mEq/L
   149 mEq/L
   23.2 %
   8.3 K/uL
        [image002.jpg]
                             [**2178-10-4**]  12:33 AM
                             [**2178-10-4**]  02:13 AM
                             [**2178-10-4**]  04:09 AM
                             [**2178-10-4**]  04:22 AM
                             [**2178-10-4**]  10:42 PM
                             [**2178-10-5**]  04:32 AM
                             [**2178-10-5**]  04:56 AM
                             [**2178-10-5**]  08:27 PM
                             [**2178-10-6**]  05:27 AM
                             [**2178-10-6**]  05:45 AM
   WBC
   9.8
   10.0
   8.3
   Hct
   24.4
   26.1
   23.2
   Plt
   154
   171
   142
   Cr
   0.9
   0.8
   0.7
   TCO2
   41
   40
   41
   41
   41
   34
   41
   Glucose
   129
   88
   79
   Other labs: PT / PTT / INR:12.2/31.2/1.0, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:[**9-27**], Alk Phos / T Bili:69/0.2,
   Differential-Neuts:81.0 %, Band:0.0 %, Lymph:10.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Microbiology: Sputum cx gram negative rods. cx pending
   blood and urine culture pending.
   Assessment and Plan
 BRADYCARDIA: Lopressor on hold.
 HYPERNATREMIA (HIGH SODIUM):
   Increase free water boluses to q4hour. Resolved acute renal failure.
 ANEMIA, OTHER:
   Hct trending down, will confirm with recheck. Anemia work up guiac
   stool, hemolysis lbas, reticulocyte count.
 RESPIRATORY FAILURE, CHRONIC
   Stable on current settings. Autodiuresing. Continue vent support.
 ALTERED MENTAL STATUS (NOT DELIRIUM):
   Appears to be following commands now. Unclear baseline. Will confirm
   with family.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Resolved hypotension, off pressors. On vanco/meropenem for UTI, coag
   negative bacteremia.
 IMPAIRED SKIN INTEGRITY:
   Wound care consult.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-10-4**] 07:56 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM can d/c tomorrow if BP stable
   Multi Lumen - [**2178-10-1**] 10:29 PM, d/c after PICC is placed.
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI.
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: updated brother Rev [**Name (NI) **] [**Name (NI) 3231**] regarding
   his brother
s tenuous condition. He wishes for continued support,
   including CPR and cardioversion if needed. He is not willing to change
   his status at this time despite an update of his current clinical
   situation and poor short and long term prognosis based on his limited
   breathing reserve and propensity to recurrent nosocomial sepsis.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2178-10-07 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2178-10-6**] 01:04 PM
 MULTI LUMEN - STOP [**2178-10-6**] 03:49 PM
   - became very tachypnic after PICC placement, change vent to PC, then
   later back to AC, increased FIO2 to 70%, increased TV to 550
   - on versed and fentanyl gtts for sedation
   - given IVF for likley hypovolemic state
   - given 1 liter D5 and increased free water bolues for hypernatremia
   - required starting norepi gtt for BP
   - was hypothermic in PM, blood cx sent, placed on bear hugger
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-10-4**] 08:22 AM
   Meropenem - [**2178-10-7**] 06:02 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2178-10-6**] 05:30 PM
   Midazolam (Versed) - [**2178-10-6**] 09:09 PM
   Fentanyl - [**2178-10-6**] 09:09 PM
   Heparin Sodium (Prophylaxis) - [**2178-10-7**] 12:25 AM
   Hydromorphone (Dilaudid) - [**2178-10-7**] 04:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-7**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 98 (67 - 118) bpm
   BP: 119/75(89) {81/48(63) - 128/92(100)} mmHg
   RR: 31 (23 - 45) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 160 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  4,478 mL
                                                                  2,509 mL
   PO:
             TF:
                                                                    940 mL
                                                                    341 mL
   IVF:
                                                                  2,037 mL
                                                                  1,467 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                  1,065 mL
   Urine:
                                                                  2,370 mL
                                                                    815 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,108 mL
                                                                  1,444 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 39 cmH2O
   Plateau: 30 cmH2O
   SpO2: 92%
   ABG: 7.27/81.[**Numeric Identifier **]/82.[**Numeric Identifier **]/36/7
   Ve: 21 L/min
   PaO2 / FiO2: 104
   Physical Examination
   Trach in place
   Nods head to simple questions, does not follow commands otherwise
   Obese
   Edema in [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 7961**] tone of extremites
   Labs / Radiology
   184 K/uL
   7.2 g/dL
   94 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.2 mEq/L
   23 mg/dL
   109 mEq/L
   148 mEq/L
   24.9 %
   12.7 K/uL
        [image002.jpg]
                             [**2178-10-6**]  05:27 AM
                             [**2178-10-6**]  05:45 AM
                             [**2178-10-6**]  01:30 PM
                             [**2178-10-6**]  03:27 PM
                             [**2178-10-6**]  05:09 PM
                             [**2178-10-6**]  05:39 PM
                             [**2178-10-6**]  08:30 PM
                             [**2178-10-7**]  12:05 AM
                             [**2178-10-7**]  03:40 AM
                             [**2178-10-7**]  04:04 AM
   WBC
   8.3
   12.7
   Hct
   23.2
   26.8
   24.9
   Plt
   142
   184
   Cr
   0.7
   0.7
   0.7
   TCO2
   41
   39
   39
   40
   38
   39
   Glucose
   79
   112
   94
   Other labs: PT / PTT / INR:12.2/31.2/1.0, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:[**9-27**], Alk Phos / T Bili:69/0.2,
   Differential-Neuts:81.0 %, Band:0.0 %, Lymph:10.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 BRADYCARDIA
 HYPERNATREMIA (HIGH SODIUM)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   Mr. [**Known lastname 6949**] is a 51 year-old man with a history of chronic hypercapneic
   respiratory failure s/p trach, COPD, and morbid obesity who presented
   from [**Hospital **] Rehab with urosepsis, coag neg staph bacteremia and
   possible pneumonia superimposed on severe lung disease.
   # Sepsis: Hypothermic and hypotensive O/N. Started on pressors.
   Cultured. Sputum growing GNRs. Unclear if colonized versus new pna.
   CXR, CT scan do not indicate pna.
   - Continue pressors
   - cont meropenem. Vanco still supratherapeutic, level 44.
   - F/u cultures
   - Consider restarting  tobramycin for h/o resistant pseudomonal
   infection
   - S/p PICC for antibiotics
   # Hypoxic/Hypercapneic respiratory failure: Multifactoral respiratory
   failure secondary to obstructive COPD and restrictive lung disease and
   obesity hypoventolation, s/p tracheostomy on [**2178-8-13**].  Possible pna on
   CT chest, and recently treated for pseudomonas VAP.  ABG c/w chronic
   respiratory acidosis with PCO2 near baseline of 70s.  On FiO2 of 40% at
   rehab, now requiring increasing  FiO2 70%. Dead space was calculated at
   85% by respiratory. Sputum with GNRs, concerning for resistant
   pseudomonas. Increase in dead space is concerning for PE.
   - infectious w/u as above
   - CTA to r/o PE
   - albuterol, ipratropium bronchodilators standing
   - will diurese once BP stable
   - AC/CMV, goal sats 92%
   - consider tobramycin
   - Opiates as needed for air hunger
   - Will need different trach when stable (current trach not stable for
   travel, was placed by thoracics)
   # Hypernatremia: Na 148.
   - Continue free water in tube feeds; change free water to q4h
   - Recheck Na at 4 PM
   # Anemia: Hct has slowly decreased from 29 to 23, stable at 24.9
   - recheck hct, transfuse if hct<22
   - check retic ct
   - guaiac stools
   - type and screen
   - transfuse for hct <21 or if hypotensive
   - hemolysis labs
   # Altered mental status: improved since admission, neg RPR, nl FT4 and
   B12. Continue infectious treatment as above.
   # Chronic kidney injury:  Cr of 1.3 is improved from creatinine at last
   discharge of 2 and has had elevated Cr during recent hospitalizations.
   Cr baseline was 0.6 in [**2178-8-5**].  History of AIN. Now with Cr 0.8.
   - renally dose meds
   - continue to trend creatinine
   # Atrial fibrillation:  Was on metoprolol at rehab for rate control,
   not on warfarin secondary to history of RP bleed.  CHADS score of 0.
   - holding metoprolol in setting of hypotension
   - no anticoagulation for now but would consider aspirin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-10-7**] 12:25 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM
   PICC Line - [**2178-10-6**] 01:04 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2178-10-07 11:36:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   PICC line inserted. Femoral line removed. Developed tachypnea and
   elevated peak pressures, started on iv sedation and blood pressure
   decreased requiring fluid replacement and levophed to be started.
   Hypothermia improved s/p bearhugger.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-10-7**] 06:02 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2178-10-6**] 05:30 PM
   Midazolam (Versed) - [**2178-10-6**] 09:09 PM
   Fentanyl - [**2178-10-6**] 09:09 PM
   Hydromorphone (Dilaudid) - [**2178-10-7**] 04:47 AM
   Heparin Sodium (Prophylaxis) - [**2178-10-7**] 08:05 AM
   Other medications:
   heparin s/c
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-7**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 90 (67 - 118) bpm
   BP: 98/55(69) {81/54(65) - 128/92(100)} mmHg
   RR: 25 (25 - 45) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 160 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  4,478 mL
                                                                  3,388 mL
   PO:
             TF:
                                                                    940 mL
                                                                    485 mL
   IVF:
                                                                  2,037 mL
                                                                  1,854 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                  1,405 mL
   Urine:
                                                                  2,370 mL
                                                                  1,155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,108 mL
                                                                  1,983 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 41 cmH2O
   Plateau: 30 cmH2O
   SpO2: 96%
   ABG: 7.27/81.[**Numeric Identifier **]/82.[**Numeric Identifier **]/36/7
   Ve: 19.1 L/min
   PaO2 / FiO2: 104
   Physical Examination
   General Appearance: Overweight / Obese, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach'd
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   184 K/uL
   94 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.2 mEq/L
   23 mg/dL
   109 mEq/L
   148 mEq/L
   24.9 %
   12.7 K/uL
        [image002.jpg]
                             [**2178-10-6**]  05:27 AM
                             [**2178-10-6**]  05:45 AM
                             [**2178-10-6**]  01:30 PM
                             [**2178-10-6**]  03:27 PM
                             [**2178-10-6**]  05:09 PM
                             [**2178-10-6**]  05:39 PM
                             [**2178-10-6**]  08:30 PM
                             [**2178-10-7**]  12:05 AM
                             [**2178-10-7**]  03:40 AM
                             [**2178-10-7**]  04:04 AM
   WBC
   8.3
   12.7
   Hct
   23.2
   26.8
   24.9
   Plt
   142
   184
   Cr
   0.7
   0.7
   0.7
   TCO2
   41
   39
   39
   40
   38
   39
   Glucose
   79
   112
   94
   Other labs: PT / PTT / INR:12.2/31.2/1.0, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:[**9-27**], Alk Phos / T Bili:69/0.2,
   Differential-Neuts:81.0 %, Band:0.0 %, Lymph:10.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
   continue free water repletion decrease rate of D5W at 70cc/hr.
 ANEMIA, OTHER
   hct stable
 RESPIRATORY FAILURE, Acute on chronic:
   Increase  in deadspace ventilation.  Increasing oxygen requirement with
   elevated PIP and plateau's. Will obtain CTA to r/o PE given acute
   increase in deadspace ventilation. Will consider broadening antibiotic
   coverge after evaluation of parenchyma on chest CT. Continue sedation
   to help with ventilator management.
   Addendum: CTA cannot be obtained as patient desaturates significantly
   with laying flat. Will check LENI, ECHO, BNP, will perform bronchoscopy
   to evaluate for secretions. Sputum with pseudomonas but unclear if this
   is colonizer vs pathogen. Will r/a need for starting him on
   aminoglycosides post bronchoscopy.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   currently sedated
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   on broad spectrum antibiotic coverage, f/u pancultures. pressor
   requirement likely [**3-9**] to sedation.
 IMPAIRED SKIN INTEGRITY
   continue wound care to decubitus ulcer
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-10-7**] 12:25 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM
   PICC Line - [**2178-10-6**] 01:04 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: lanzoprazole per G tube
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: with brother
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2178-10-08 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**10-7**]
   Thick secretions on bronch
   Started neb Tobra
   ECHO for clot in transit, EF 60%
   LENIs ordered,  negative DVT
   D/w pharm dose for IV Tobra; need to d/w ID in am
   Changed levo to neo d/t tachycardia
   24 Hour Events:
 BRONCHOSCOPY - At [**2178-10-7**] 01:30 PM
 TRANSTHORACIC ECHO - At [**2178-10-7**] 02:00 PM
 ULTRASOUND - At [**2178-10-7**] 04:00 PM
   Biltaeral lower extremity.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-10-8**] 06:03 AM
   Tobramycin, nebulized
   Vancomycin (supratheraputic)
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-10-7**] 07:42 PM
   Heparin Sodium (Prophylaxis) - [**2178-10-8**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-8**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 83 (83 - 105) bpm
   BP: 93/56(69) {81/53(63) - 131/79(96)} mmHg
   RR: 29 (25 - 42) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 160 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  6,533 mL
                                                                  2,228 mL
   PO:
             TF:
                                                                  1,061 mL
                                                                    335 mL
   IVF:
                                                                  3,341 mL
                                                                  1,193 mL
   Blood products:
   Total out:
                                                                  3,385 mL
                                                                    500 mL
   Urine:
                                                                  3,135 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,148 mL
                                                                  1,728 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: RR >35
   PIP: 35 cmH2O
   SpO2: 92%
   ABG: 7.22/95.[**Numeric Identifier **]/62/36/7
   Ve: 13.1 L/min
   PaO2 / FiO2: 78
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   219 K/uL
   7.2 g/dL
   105 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.9 mEq/L
   21 mg/dL
   107 mEq/L
   147 mEq/L
   26.2 %
   15.6 K/uL
        [image002.jpg]
                             [**2178-10-6**]  03:27 PM
                             [**2178-10-6**]  05:09 PM
                             [**2178-10-6**]  05:39 PM
                             [**2178-10-6**]  08:30 PM
                             [**2178-10-7**]  12:05 AM
                             [**2178-10-7**]  03:40 AM
                             [**2178-10-7**]  04:04 AM
                             [**2178-10-8**]  03:11 AM
                             [**2178-10-8**]  03:20 AM
                             [**2178-10-8**]  06:02 AM
   WBC
   12.7
   15.6
   Hct
   24.9
   26.2
   Plt
   184
   219
   Cr
   0.7
   0.7
   0.6
   TCO2
   39
   39
   40
   38
   39
   41
   41
   Glucose
   112
   94
   105
   Other labs: PT / PTT / INR:12.2/31.2/1.0, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:[**12-30**], Alk Phos / T Bili:91/0.2,
   Differential-Neuts:83.0 %, Band:1.0 %, Lymph:5.0 %, Mono:6.0 %, Eos:1.0
   %, Lactic Acid:0.7 mmol/L, Albumin:2.1 g/dL, LDH:283 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
RESPIRATORY CULTURE (Preliminary):
      OROPHARYNGEAL FLORA ABSENT.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.  SECOND MORPHOLOGY.
   Assessment and Plan
 BRADYCARDIA
 HYPERNATREMIA (HIGH SODIUM)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   Mr. [**Known lastname 6949**] is a 51 year-old man with a history of chronic hypercapneic
   respiratory failure s/p trach, COPD, and morbid obesity who presented
   from [**Hospital **] Rehab with urosepsis, coag neg staph bacteremia and
   possible pneumonia superimposed on severe lung disease.
   # Sepsis: Changed from levophed to neosyn [**10-7**] due to tachycardia. WBC
   elevated to 15.7. Sputum growing pseudomonas. Unclear if colonized
   versus new pna. CXR, CT scan are difficult to read due to progressive
   lung disease, unlear if PNA present.
   - Continue pressors
   - Continue inhaled tobramycin, will try to change to IV after
   discussing with ID
   - Cont meropenem. Vanco still supratherapeutic
   - F/u cultures
   - S/p PICC for antibiotics
   # Hypoxic/Hypercapneic respiratory failure: Multifactoral respiratory
   failure secondary to obstructive COPD and restrictive lung disease and
   obesity hypoventolation, s/p tracheostomy on [**2178-8-13**].  Possible pna on
   CT chest, and recently treated for pseudomonas VAP.  ABG c/w chronic
   respiratory acidosis with very elevated PCO2. On FiO2 of 40% at rehab,
   now requiring increasing  FiO2 80%. Dead space has increased. Sputum
   with moderate pseudomonas growth, concerning for resistant infection.
   Increase in dead space is concerning for PE. ECHO, LENI no evidence of
   clot.
   - infectious w/u as above
   - consider CTA to r/o PE if more stable
   - albuterol, ipratropium bronchodilators standing
   - will diurese once BP stable
   - AC/CMV, goal sats 92%
   - Opiates as needed for air hunger
   - Will need different trach when stable (current trach not stable for
   travel, was placed by thoracics)
   - may need to consider paralysis to better control his resp status,
   however not ideal due to his profound weakness at baseline
   # Hypernatremia: Na 147, improved
   - Continue free water in tube feeds
   - Recheck Na at 5PM
   - D5W as needed
   # Anemia: Hct has slowly decreased from 29 to 23, stable at 24.9
   - recheck hct, transfuse if hct<22
   - check retic ct
   - guaiac stools
   - type and screen
   - transfuse for hct <21 or if hypotensive
   - hemolysis labs
   # Altered mental status/Disconjugate gauze: unclear baseline, neg RPR,
   nl [**Name (NI) 8013**] and B12. Continue infectious treatment as above.
   - d/c benzos and fentanyl patch
   - EEG to assess for sz
   - monitor gauze
   - opthamalscope
   # Chronic kidney injury:  Cr of 1.3 is improved from creatinine at last
   discharge of 2 and has had elevated Cr during recent hospitalizations.
   Cr baseline was 0.6 in [**2178-8-5**].  History of AIN. Now with Cr 0.8.
   - renally dose meds
   - continue to trend creatinine
   # Atrial fibrillation:  Was on metoprolol at rehab for rate control,
   not on warfarin secondary to history of RP bleed.  CHADS score of 0.
   - holding metoprolol in setting of hypotension
   - no anticoagulation for now but would consider aspirin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-10-7**] 12:25 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM
   PICC Line - [**2178-10-6**] 01:04 PM
   22 in hand
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   of pt
   [**Name (NI) 129**] status: Full code
   Disposition: ICU for now

2178-10-08 09:48:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, sepsis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   LENI and echo negative for clot. Continues with tachypnea, high
   ventilator requirement, not responsive to sedation. brochoscopy with
   moderate secretions promixally and no distal secretions. Started on
   IV/inhaled tobramycin
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-10-8**] 06:03 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-10-7**] 07:42 PM
   Heparin Sodium (Prophylaxis) - [**2178-10-8**] 08:33 AM
   Other medications:
   colace, atrovent, chlorhexide, fentanyl patch, clonazepam, lidocaine
   patch, magoxide, lansoproazole daily, beclmethasone, meropenem, heparin
   s/c tid, free water flushes q4h. Neo 1mcg/kg/min.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-8**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.6
   HR: 86 (83 - 105) bpm
   BP: 98/60(73) {81/53(63) - 131/79(96)} mmHg
   RR: 31 (25 - 42) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 160 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  6,533 mL
                                                                  2,868 mL
   PO:
             TF:
                                                                  1,061 mL
                                                                    411 mL
   IVF:
                                                                  3,341 mL
                                                                  1,326 mL
   Blood products:
   Total out:
                                                                  3,385 mL
                                                                    640 mL
   Urine:
                                                                  3,135 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,148 mL
                                                                  2,228 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: RR >35
   PIP: 31 cmH2O
   SpO2: 91%
   ABG: 7.21/101/56/36/8
   Ve: 13.7 L/min
   PaO2 / FiO2: 70
   Physical Examination
   General Appearance: Overweight / Obese, Diaphoretic
   Eyes / Conjunctiva: disconjugate eyes
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy tube
   Cardiovascular: (S1: Normal), (S2: No(t) Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Sedated, Tone: Decreased, deeply sedated
   Labs / Radiology
   7.2 g/dL
   219 K/uL
   105 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.9 mEq/L
   21 mg/dL
   107 mEq/L
   147 mEq/L
   26.2 %
   15.6 K/uL
        [image002.jpg]
                             [**2178-10-6**]  05:09 PM
                             [**2178-10-6**]  05:39 PM
                             [**2178-10-6**]  08:30 PM
                             [**2178-10-7**]  12:05 AM
                             [**2178-10-7**]  03:40 AM
                             [**2178-10-7**]  04:04 AM
                             [**2178-10-8**]  03:11 AM
                             [**2178-10-8**]  03:20 AM
                             [**2178-10-8**]  06:02 AM
                             [**2178-10-8**]  08:30 AM
   WBC
   12.7
   15.6
   Hct
   24.9
   26.2
   Plt
   184
   219
   Cr
   0.7
   0.7
   0.6
   TCO2
   39
   40
   38
   39
   41
   41
   42
   Glucose
   112
   94
   105
   Other labs: PT / PTT / INR:12.2/31.2/1.0, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:[**12-30**], Alk Phos / T Bili:91/0.2,
   Differential-Neuts:83.0 %, Band:1.0 %, Lymph:5.0 %, Mono:6.0 %, Eos:1.0
   %, Lactic Acid:0.7 mmol/L, Albumin:2.1 g/dL, LDH:283 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Imaging: Echo EF 60%, right ventricular dilations, moderate global free
   wall hypokinesis.
   LENI negative for DVT
   CXR: stable
   Microbiology: sparse pseudomonas [**10-5**]
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
   improving on free water repletion, stop iv free water, continue png
   free water.
 ANEMIA, OTHER
   stable
 RESPIRATORY FAILURE, CHRONIC
   Severe COPD and underlying fibrosis, increased deadspace vs increased
   CO2 production of unclear etiology. PCO2 rising despite PCV, inhalers.
   Treating for pseudomonas tracheobronchitis/ pneumonia. Will need
   paralytics for management of his impending respiratory failure. Keep
   PIP at 4-45 on ACV once paralyzed with Vt strategy of [**7-12**] ml/kg
 ALTERED MENTAL STATUS (NOT DELIRIUM):
   unable to lighten him due to worsening respiratory acidosis on vent.
   Will continue to deeply sedate to allow for ventilator management.
   Disconjugate gaze of unclear etiology. unable to image as he is unable
   to travel. Will obtain EEG.  If stable later today with paralysis, will
   proceed with head CT.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Being treated for UTI, pseudomonas penumonia, CNS. On meropenem, vanco
   troughs remain elevated, started iv tobra 80 iv x1, check peak and
   trough. Lactate normal, urine output in good range on low-moderate dose
   neosynephrine.
 IMPAIRED SKIN INTEGRITY:
   wound care consult again today to assess for sourse of infection. Will
   swab to look for highly resistant organisms.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-10-7**] 10:36 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM
   PICC Line - [**2178-10-6**] 01:04 PM
   22 Gauge - [**2178-10-7**] 07:48 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments: daily wake up contraindicated given amount of vent support
   needed at this time
   Communication:  Comments: will meet with brother today
   [**Name2 (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2178-10-09 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**10-8**]
   - Difficulty with ventilation so pt paralyzed with cisatricurium.
   Required 3 doses and still occasionally asynchronous with vent
   - Worsening ABGs throughout night despite vent changes (increased PEEP
   to 10. On AC. FIO2 100%
   - BP's doing poorly. Started on vasopressin at 1AM. UO still around 30.
   - Started on IV tobramycin. Too early to check peak/trough. will check
   after 3rd dose.
   - Consulted surgery on regarding large 8x3cm ulcer right flank/chest.
   Pt decompensating when they came by so I asked not to turn pt. He
   doesn't do well after being moved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-10-9**] 12:00 AM
   Tobramycin - [**2178-10-9**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Cisatracurium - 0.3 mg/Kg/hour
   Midazolam (Versed) - 12 mg/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Cisatracurium - [**2178-10-8**] 06:25 PM
   Heparin Sodium (Prophylaxis) - [**2178-10-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-9**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 86 (80 - 96) bpm
   BP: 94/60(74) {89/54(68) - 128/83(100)} mmHg
   RR: 27 (27 - 34) insp/min
   SpO2: 79%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 160 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  7,522 mL
                                                                  2,041 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    293 mL
   IVF:
                                                                  4,260 mL
                                                                  1,048 mL
   Blood products:
   Total out:
                                                                  1,188 mL
                                                                    186 mL
   Urine:
                                                                  1,188 mL
                                                                    186 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,334 mL
                                                                  1,855 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: RR >35
   PIP: 43 cmH2O
   Plateau: 33 cmH2O
   Compliance: 19.6 cmH2O/mL
   SpO2: 79%
   ABG: 7.15/106/78.[**Numeric Identifier 274**]/32/4
   Ve: 16 L/min
   PaO2 / FiO2: 79
   Physical Examination
   General: morbidly obese, trached and vented
   HEENT: Disconjugate gaze.
   Neck: supple, JVP unable to assess, no LAD
   Lungs: bilateral rhonchi, no rales or wheezes
   CV: distant heart sounds, regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, distended, large 8x3cm ulcer right flank/chest
   Ext: warm, well perfused, 2+ pulses, 1+ LE edema, erythematous patches
   scattered across chest, arms, and legs.
   Labs / Radiology
   219 K/uL
   7.2 g/dL
   347 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.9 mEq/L
   20 mg/dL
   98 mEq/L
   135 mEq/L
   26.2 %
   15.6 K/uL
        [image002.jpg]
                             [**2178-10-8**]  03:20 AM
                             [**2178-10-8**]  06:02 AM
                             [**2178-10-8**]  08:30 AM
                             [**2178-10-8**]  12:14 PM
                             [**2178-10-8**]  02:25 PM
                             [**2178-10-8**]  04:01 PM
                             [**2178-10-8**]  06:28 PM
                             [**2178-10-8**]  06:45 PM
                             [**2178-10-8**]  08:03 PM
                             [**2178-10-9**]  12:27 AM
   Cr
   0.7
   TCO2
   41
   41
   42
   41
   40
   40
   41
   40
   39
   Glucose
   347
   Other labs: PT / PTT / INR:12.2/31.2/1.0, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:[**12-30**], Alk Phos / T Bili:91/0.2,
   Differential-Neuts:83.0 %, Band:1.0 %, Lymph:5.0 %, Mono:6.0 %, Eos:1.0
   %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:283 IU/L, Ca++:8.3
   mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 BRADYCARDIA
 HYPERNATREMIA (HIGH SODIUM)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   Mr. [**Known lastname 6949**] is a 51 year-old man with a history of chronic hypercapneic
   respiratory failure s/p trach, COPD, and morbid obesity who presented
   from [**Hospital **] Rehab with urosepsis, coag neg staph bacteremia and
   possible pneumonia superimposed on severe lung disease.
   # Hypoxic/Hypercapneic respiratory failure: LIkely multifactoral
   respiratory failure secondary to obstructive COPD and restrictive lung
   disease and obesity hypoventolation. Overnight worsening respiratory
   failure. His intrinsic PEEP and airway resistance were low, making it
   less likely to be obstructive component. s/p tracheostomy on [**2178-8-13**].
   ABG w worsening acute on chronicc respiratory acidosis with very
   elevated PCO2. On FiO2 of 40% at rehab, now requiring increasing  FiO2
   to 100%. Dead space has increased. Pt dysynchronous with vent so
   paralyzed with cisatricurium, though minimal improvement in
   ventilation. Sputum with sparse pseudomonas growth, concerning for
   resistant infection. Started on IV tobramycin. Increase in dead space
   is concerning for PE. ECHO, LENI no evidence of clot. Increased CO2 may
   be secondary to underlying infection and he has large ulcer on Right
   side.
   - continue cisatricurium
   - infectious w/u
   - continue abx including tobramycin for resistant pseudomonas
   - albuterol, ipratropium bronchodilators standing
   - will diurese once BP stable
   - AC/CMV, goal sats 92%
   # Sepsis: On neosyn, vasopressin. WBC stable at 18.9. Vanco trough
   today pending, yesterday was still supratherapeutic at 38. Sputum
   growing pseudomonas. Unclear if colonized versus new pna. CXR, CT scan
   are difficult to read due to progressive lung disease, unlear if PNA
   present. Sent repeat cultures yesterday as more hypotensive.
   - Continue pressors
   - Continue inhaled tobramycin
   - Continue IV tobra, adjust dose per
   - Cont meropenem. Vanco still supratherapeutic
   - F/u cultures
   - S/p PICC for antibiotics
   - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs for ulcer
   - resend blood, urine cultures
   # Hypernatremia: Na 135 overnight, improved
   - Continue free water in tube feeds
   - Recheck Na at 5PM
    # Anemia: Hct has slowly decreased from 29 to 23, stable at 26.4
   - recheck hct, transfuse if hct<22
   - guaiac stools
   - type and screen
   - transfuse for hct <21 or if hypotensive
   - hemolysis labs
   # Altered mental status/Disconjugate gauze: unclear baseline, neg RPR,
   nl [**Name (NI) 8013**] and B12. Continue infectious treatment as above.
   - d/c benzos
   - CT head if stable
   - fentanyl patch still on before paralysis initiated therefore keep on
   - EEG to assess for sz
   # Chronic kidney injury:  Cr of 1.3 is improved from creatinine at last
   discharge of 2 and has had elevated Cr during recent hospitalizations.
   Cr baseline was 0.6 in [**2178-8-5**].  History of AIN. Now with Cr 0.8.
   - renally dose meds
   - continue to trend creatinine
   # Atrial fibrillation:  Was on metoprolol at rehab for rate control,
   not on warfarin secondary to history of RP bleed.  CHADS score of 0.
   - holding metoprolol in setting of hypotension
   - no anticoagulation for now but would consider aspirin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-10-8**] 08:47 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM
   PICC Line - [**2178-10-6**] 01:04 PM
   22 Gauge - [**2178-10-7**] 07:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2178-10-09 09:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Marginally improved respiratory acidosis s/p paralysis, worsening
   metabolic acidosis this am, rising lactate, lower BP on max neo and
   vasopressin. Decubitus ulcer to be evaluated by surgery today.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2178-10-9**] 04:00 AM
   Meropenem - [**2178-10-9**] 06:30 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Cisatracurium - 0.3 mg/Kg/hour
   Midazolam (Versed) - 12 mg/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Cisatracurium - [**2178-10-8**] 06:25 PM
   Heparin Sodium (Prophylaxis) - [**2178-10-8**] 10:00 PM
   Other medications:
   atrovent, insulin SS, lidocaine patch, lansoprazole, beclmethasone.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-9**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.7
C (96.2
   HR: 82 (80 - 96) bpm
   BP: 90/57(70) {83/53(65) - 128/83(100)} mmHg
   RR: 34 (27 - 34) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 160 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  7,522 mL
                                                                  2,942 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    371 mL
   IVF:
                                                                  4,260 mL
                                                                  1,871 mL
   Blood products:
   Total out:
                                                                  1,188 mL
                                                                    226 mL
   Urine:
                                                                  1,188 mL
                                                                    226 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,334 mL
                                                                  2,716 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: RR >35
   PIP: 43 cmH2O
   Plateau: 33 cmH2O
   Compliance: 19.6 cmH2O/mL
   SpO2: 87%
   ABG: 7.13/90.[**Numeric Identifier 433**]/68/33/-2
   Ve: 16 L/min
   PaO2 / FiO2: 68
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach tube
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Cool, ulcer examined no expressible pus, some area of necrotic
   tissue, no purulence, bleeds easily
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased, paralyzed
   Labs / Radiology
   7.5 g/dL
   204 K/uL
   119 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.0 mEq/L
   22 mg/dL
   101 mEq/L
   140 mEq/L
   26.4 %
   18.9 K/uL
        [image002.jpg]
                             [**2178-10-8**]  08:30 AM
                             [**2178-10-8**]  12:14 PM
                             [**2178-10-8**]  02:25 PM
                             [**2178-10-8**]  04:01 PM
                             [**2178-10-8**]  06:28 PM
                             [**2178-10-8**]  06:45 PM
                             [**2178-10-8**]  08:03 PM
                             [**2178-10-9**]  12:27 AM
                             [**2178-10-9**]  06:12 AM
                             [**2178-10-9**]  06:31 AM
   WBC
   18.9
   Hct
   26.4
   Plt
   204
   Cr
   0.7
   0.9
   TCO2
   42
   41
   40
   40
   41
   40
   39
   32
   Glucose
   347
   119
   Other labs: PT / PTT / INR:13.6/35.7/1.2, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:[**12-30**], Alk Phos / T Bili:91/0.2,
   Differential-Neuts:79.0 %, Band:1.0 %, Lymph:6.0 %, Mono:6.0 %, Eos:1.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:283 IU/L, Ca++:8.4
   mg/dL, Mg++:1.8 mg/dL, PO4:5.1 mg/dL
   Imaging: CXR yesterday no pneumonothorax
   Microbiology: Sputum with sparse pseudomonas.
   Blood and urine cultures pending.
   Assessment and Plan
 Respiratory failure:
   COPD/Obesity/Likely with superimposed ARDS + now pulmonary edema.
   Cannot exclude a PE, but due to history of RP bleed will hold off on
   emipric anticoagulation.  Cannot tolerate diuresis due to progressive
   hypotension. Continue current support including heavy sedation and
   paralytics. Will place an esopahgeal balloon to optimize PEEP/
   transpulmonary pressures at end inspiration. Sats appear to be
   sensitive to changes in MAP ( with pressors)
 Hypotension:
   Likely vasodilatory shock, ? infection of unclear source pneumonia vs
   decubitus ulcer. On broad spectrum antibiotic coverage with no clear
   response. With increase dose of tobramycin. Known Rv failure.
   will assess fluid responsiveness by pulse pressure variation today.
 Metabolic acidosis:
   rising creatinine with decrease urine output likely contributing to his
   metabolic acidosis.
 IMPAIRED SKIN INTEGRITY
   Surgical consult today
 Access: attempt to place central line, if attempts at placement of
   periopheral line fail
   ICU Care
   Nutrition: tube feeds as tolerated
   Replete with Fiber (Full) - [**2178-10-8**] 08:47 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM
   PICC Line - [**2178-10-6**] 01:04 PM
   22 Gauge - [**2178-10-7**] 07:48 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2178-10-10 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**10-9**]
   - wound was examined, no frank pus, but deep wound did have granulation
   tissue
   - continued paralytics
   - given 200mg of tobramycin x 1, will need next dose in 72 hours
   - esophageal balloon was placed, pressures were elevated and pt was
   overdistended- I/E ratio flipped, TV decreased by 50,
   - other brother came by, states his brother is not the HCP, unclear if
   any form was signed, he wants to talk with attending in AM, will come
   sometime before noon
   - bicarb given 1 amp for PH of 7.18
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2178-10-9**] 06:00 PM
   Meropenem - [**2178-10-9**] 10:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Phenylephrine - 5 mcg/Kg/min
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-10-10**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-10**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 89 (74 - 89) bpm
   BP: 97/64(76) {84/55(67) - 149/94(116)} mmHg
   RR: 34 (31 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 160 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  5,684 mL
                                                                  1,268 mL
   PO:
             TF:
                                                                    447 mL
   IVF:
                                                                  4,187 mL
                                                                    918 mL
   Blood products:
   Total out:
                                                                    781 mL
                                                                    998 mL
   Urine:
                                                                    781 mL
                                                                    348 mL
   NG:
   650 mL
   Stool:
   Drains:
   Balance:
                                                                  4,903 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 35 cmH2O
   Compliance: 18.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.16/98.[**Numeric Identifier 500**]/65/31/2
   Ve: 15.5 L/min
   PaO2 / FiO2: 65
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: disconjugate gaze
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Distended
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   No(t) Oriented (to): , Movement: Non -purposeful, Sedated, Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   226 K/uL
   7.3 g/dL
   109 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.3 mEq/L
   23 mg/dL
   98 mEq/L
   136 mEq/L
   25.4 %
   19.4 K/uL
        [image002.jpg]
                             [**2178-10-9**]  09:32 AM
                             [**2178-10-9**]  11:16 AM
                             [**2178-10-9**]  01:18 PM
                             [**2178-10-9**]  02:11 PM
                             [**2178-10-9**]  05:13 PM
                             [**2178-10-9**]  05:24 PM
                             [**2178-10-9**]  10:04 PM
                             [**2178-10-9**]  11:04 PM
                             [**2178-10-10**]  04:45 AM
                             [**2178-10-10**]  04:58 AM
   WBC
   19.4
   Hct
   25.4
   Plt
   226
   Cr
   0.9
   0.9
   TCO2
   36
   38
   38
   37
   36
   36
   40
   37
   Glucose
   107
   109
   Other labs: PT / PTT / INR:13.8/35.9/1.2, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:16/44, Alk Phos / T Bili:114/0.3,
   Differential-Neuts:79.0 %, Band:1.0 %, Lymph:9.0 %, Mono:5.0 %, Eos:1.0
   %, Lactic Acid:2.7 mmol/L, Albumin:2.1 g/dL, LDH:314 IU/L, Ca++:8.5
   mg/dL, Mg++:1.8 mg/dL, PO4:5.3 mg/dL
   Microbiology:    RESPIRATORY CULTURE (Preliminary):
         OROPHARYNGEAL FLORA ABSENT.
         PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
            OF TWO COLONIAL MORPHOLOGIES.
         GRAM NEGATIVE ROD #3.    SUGGESTING PSEUDOMONAS.  SPARSE GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                PSEUDOMONAS AERUGINOSA
                                |
   CEFEPIME--------------    16 I
   CEFTAZIDIME-----------    16 I
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------     2 S
   MEROPENEM-------------  =>16 R
   PIPERACILLIN---------- =>128 R
   PIPERACILLIN/TAZO----- =>128 R
   TOBRAMYCIN------------   <=1 S
   [**2178-10-9**] 9:29 am SWAB      Source: Decub.
      GRAM STAIN (Final [**2178-10-9**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      WOUND CULTURE (Preliminary):
      ANAEROBIC CULTURE (Preliminary):
   Assessment and Plan
 BRADYCARDIA
 HYPERNATREMIA (HIGH SODIUM)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   Mr. [**Known lastname 6949**] is a 51 year-old man with a history of chronic hypercapneic
   respiratory failure s/p trach, COPD, and morbid obesity who presented
   from [**Hospital **] Rehab with urosepsis, coag neg staph bacteremia and
   possible pneumonia superimposed on severe lung disease.
   # Hypoxic/Hypercapneic respiratory failure: LIkely multifactoral
   respiratory failure secondary to obstructive COPD and restrictive lung
   disease and obesity hypoventilation. Overnight worsening respiratory
   failure. ABG w worsening acute on chronic respiratory acidosis with
   very elevated PCO2. On FiO2 of 40% at rehab, now requiring increasing
   FiO2 to 100%. Pt dysynchronous with vent so paralyzed with
   cisatricurium, though minimal improvement in ventilation. Overnight I:E
   ratio changed to 1:1, PEEP decreased from 15 to 11, TV in 450
s, PIP
   and Plat
s in the 30
   - continue cisatricurium
   - infectious w/u
   - continue abx including tobramycin for resistant pseudomonas
   - albuterol, ipratropium bronchodilators standing
   - AC/CMV, goal sats 92%
   - Check plateau pressure (pt experienced barotrauma two months ago,
   however now demonstrating ARDS physiology so increased PEEP may be
   needed)
   # Septic shock: On neosyn, vasopressin. WBC stable at 18.9. Vanco still
   supratherapeutic at 32. Known resistant pseudomonas. Unclear if
   colonized versus new pna. CXR, CT scan are difficult to read due to
   progressive lung disease, unlear if PNA present. Also has a 3-4cm deep
   ulcer on right flank, no purulent fluid expressed, but concerning for
   site of infection.
   - Continue pressors, bolus with IVFs prn (U/O decreasing or MAP<65)
   - Follow lactic acid from serial ABGs
   - [**Month (only) 11**] need CVL as on multiple IV meds
   - Continue inhaled tobramycin
   - Continue IV tobra, adjust dose per pharmacy recs
   - Cont meropenem. Vanco still supratherapeutic
   - F/u cultures
   - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs for ulcer
   - resend blood, urine cultures
   # Hypernatremia: Resolved.
   - Continue free water in tube feeds
    # Anemia: Hct has slowly decreased from 29 to 23, stable at 26.4
   - recheck hct, transfuse if hct<22
   - guaiac stools
   - type and screen
   - transfuse for hct <21 or if hypotensive
   - hemolysis labs
   # Altered mental status/Disconjugate gauze: unclear baseline, neg RPR,
   nl [**Name (NI) 8013**] and B12. Continue infectious treatment as above.
   - d/c benzos
   - CT head if stable
   - fentanyl patch still on before paralysis initiated therefore keep on
   - EEG to assess for sz
   # Chronic kidney injury:  Cr of 1.3 is improved from creatinine at last
   discharge of 2 and has had elevated Cr during recent hospitalizations.
   Cr baseline was 0.6 in [**2178-8-5**].  History of AIN. Now with Cr 0.8.
   - renally dose meds
   - continue to trend creatinine
   - bolus IVF prn u/o
   # Atrial fibrillation:  Was on metoprolol at rehab for rate control,
   not on warfarin secondary to history of RP bleed.  CHADS score of 0.
   - holding metoprolol in setting of hypotension
   - no anticoagulation for now but would consider aspirin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM
   PICC Line - [**2178-10-6**] 01:04 PM
   22 Gauge - [**2178-10-7**] 07:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-10-10 09:37:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   51 h/o chronic hyperCO2 resp failure, p/w urosepsis, with staph
   bacteremia, and found to have pseudomonal PNA.
   24 Hour Events:
   Yesterday -
   - new wound appreciated R upper flank (4cm, open, no drainage); no
   fluid to swab.
   - paralytics continued (started 2 days ago).
   - Esophageal balloon, Pips, Plateaus in 30s, IE changed, TV changes.
   - New family member arrived raising concern about current family member
   - Got 1amp [**Name2 (NI) 8093**] for Ph 7.18
   - Continues on neo/vaso/cisatracurium
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2178-10-9**] 06:00 PM
   Meropenem - [**2178-10-9**] 10:00 PM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Cisatracurium - 0.3 mg/Kg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-10-10**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-10**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 88 (74 - 89) bpm
   BP: 101/66(79) {84/57(68) - 149/94(116)} mmHg
   RR: 34 (31 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 160 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  5,728 mL
                                                                  1,890 mL
   PO:
             TF:
                                                                    447 mL
   IVF:
                                                                  4,230 mL
                                                                  1,190 mL
   Blood products:
   Total out:
                                                                    781 mL
                                                                    998 mL
   Urine:
                                                                    781 mL
                                                                    348 mL
   NG:
   650 mL
   Stool:
   Drains:
   Balance:
                                                                  4,947 mL
                                                                    892 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 41 cmH2O
   Plateau: 40 cmH2O
   Compliance: 15.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.16/98.[**Numeric Identifier 500**]/65/31/2
   Ve: 15.7 L/min
   PaO2 / FiO2: 65
   Physical Examination
   GEN: Morbidly obese, paralyzed, trach
   HEENT: Pupils sluggish, discojugate gaze
   PULM: Moving air
   CV: Reg, no M
   EXT: Cool, edematous.
   Labs / Radiology
   7.3 g/dL
   226 K/uL
   109 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.3 mEq/L
   23 mg/dL
   98 mEq/L
   136 mEq/L
   25.4 %
   19.4 K/uL
        [image002.jpg]
                             [**2178-10-9**]  09:32 AM
                             [**2178-10-9**]  11:16 AM
                             [**2178-10-9**]  01:18 PM
                             [**2178-10-9**]  02:11 PM
                             [**2178-10-9**]  05:13 PM
                             [**2178-10-9**]  05:24 PM
                             [**2178-10-9**]  10:04 PM
                             [**2178-10-9**]  11:04 PM
                             [**2178-10-10**]  04:45 AM
                             [**2178-10-10**]  04:58 AM
   WBC
   19.4
   Hct
   25.4
   Plt
   226
   Cr
   0.9
   0.9
   TCO2
   36
   38
   38
   37
   36
   36
   40
   37
   Glucose
   107
   109
   Other labs: PT / PTT / INR:13.8/35.9/1.2, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:16/44, Alk Phos / T Bili:114/0.3,
   Differential-Neuts:79.0 %, Band:1.0 %, Lymph:9.0 %, Mono:5.0 %, Eos:1.0
   %, Lactic Acid:2.7 mmol/L, Albumin:2.1 g/dL, LDH:314 IU/L, Ca++:8.5
   mg/dL, Mg++:1.8 mg/dL, PO4:5.3 mg/dL
   Fluid analysis / Other labs: WBC trending up dramatically over past 4
   days.
   Imaging: Unchanged - bilateral bibasilar opacities/infiltrates.
   ETT/PICC line in place.
   Microbiology: Respiratory culture: PsA (R to [**Last Name (un) **], cipro, zosyn, S to
   [**Female First Name (un) **]).
   Decubitus swab: GS with polys, no organisms, culture pending.
   Blood, urine cultures pending.
   Assessment and Plan
   51M with endstage COPD/fibrosis, respiratory failure, a/w
   urosepsis/line sepsis, now with Pseudomonal PNA and
   persistent/worsening acidemia, elevated dead space, making little
   progress on ventilator.
   1.       Respiratory failure :  fibrosis/COPD/PNA
 continues to
   require paralysis to tolerate
   -PEEP 15 to 11, Pip/plateaus: 30s, I:E 3:1
   -Getting inhaled and IV tobra; on meropenem
   -On ipratropium, albuterol nebs
   - [**Month (only) 11**] be worth refining h/o RP bleed to be able to
   2.       Septic shock
 no neo/vasopressin
 wbc continues to rise.
   - Has resistant PsA PNA
 on [**Female First Name (un) **] inhaled and IV
   - Possible contribution of deep ulcer on R flank (although little pus)
   - On meropenem; awaiting normalization of vanc level to redose.
   - Blood, urine cx, wound cx.
   - Will send stool cx for C. diff when avail.
   3.       AMS
 though currently paralyzed
 prior to paralysis,
   undergoing w/u for delirium
   - Has not been stable enough for head CT, EEG considered but not yet
   completed.
   - RPR, B12, TSH sent.
   4.   F/E/N
   - TF on hold for high residuals.
   - Has not had BM for days; aggressive bowel regimen.
   - KUB today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM
   PICC Line - [**2178-10-6**] 01:04 PM
   22 Gauge - [**2178-10-7**] 07:48 PM
   Prophylaxis:
   DVT:  Hep SC, boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3231**] ( brother) updated regarding
   his condition
   Code status: Full code
   Disposition :
   Total time spent: 45 mins

2178-10-11 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Got multiple amps of bicarb for acidosis, BP improved with bicarb, got
   started on bicarb gtt
   - Added levophed for BP, pt's oxygenation does better with SBPs in
   110's. Trying to wean neosyn
   - KUB negative for gas
   - Hct down to 22, ordered 1u pRBCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2178-10-9**] 06:00 PM
   Meropenem - [**2178-10-11**] 06:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Phenylephrine - 2.5 mcg/Kg/min
   Fentanyl (Concentrate) - 300 mcg/hour
   Cisatracurium - 0.3 mg/Kg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2178-10-10**] 04:05 PM
   Heparin Sodium (Prophylaxis) - [**2178-10-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-11**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 97 (87 - 98) bpm
   BP: 145/83(104) {81/54(64) - 154/94(115)} mmHg
   RR: 34 (22 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 160 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  6,528 mL
                                                                  2,443 mL
   PO:
             TF:
   IVF:
                                                                  4,758 mL
                                                                  2,093 mL
   Blood products:
   Total out:
                                                                  1,862 mL
                                                                    620 mL
   Urine:
                                                                    942 mL
                                                                    370 mL
   NG:
                                                                    920 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  4,666 mL
                                                                  1,823 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 36 cmH2O
   Plateau: 32 cmH2O
   SpO2: 95%
   ABG: 7.21/105/53/39/9
   Ve: 15.9 L/min
   PaO2 / FiO2: 53
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   212 K/uL
   6.5 g/dL
   132 mg/dL
   0.8 mg/dL
   39 mEq/L
   3.8 mEq/L
   22 mg/dL
   94 mEq/L
   136 mEq/L
   22.5 %
   19.7 K/uL
        [image002.jpg]
                             [**2178-10-9**]  11:04 PM
                             [**2178-10-10**]  04:45 AM
                             [**2178-10-10**]  04:58 AM
                             [**2178-10-10**]  11:05 AM
                             [**2178-10-10**]  12:23 PM
                             [**2178-10-10**]  02:53 PM
                             [**2178-10-10**]  05:17 PM
                             [**2178-10-10**]  09:23 PM
                             [**2178-10-11**]  04:48 AM
                             [**2178-10-11**]  05:02 AM
   WBC
   19.4
   19.7
   Hct
   25.4
   22.5
   Plt
   226
   212
   Cr
   0.9
   0.8
   TCO2
   40
   37
   33
   34
   37
   38
   40
   44
   Glucose
   109
   132
   Other labs: PT / PTT / INR:15.2/37.1/1.3, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:16/44, Alk Phos / T Bili:114/0.3,
   Differential-Neuts:79.0 %, Band:1.0 %, Lymph:9.0 %, Mono:5.0 %, Eos:1.0
   %, Lactic Acid:2.3 mmol/L, Albumin:2.1 g/dL, LDH:314 IU/L, Ca++:8.0
   mg/dL, Mg++:1.6 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 BRADYCARDIA
 HYPERNATREMIA (HIGH SODIUM)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   Mr. [**Known lastname 6949**] is a 51 year-old man with a history of chronic hypercapneic
   respiratory failure s/p trach, COPD, and morbid obesity who presented
   from [**Hospital **] Rehab with urosepsis, coag neg staph bacteremia and
   possible pneumonia superimposed on severe lung disease.
   # Hypoxic/Hypercapneic respiratory failure: Likely multifactoral
   respiratory failure secondary to obstructive COPD and restrictive lung
   disease and obesity hypoventilation. Overnight worsening respiratory
   failure. ABG w worsening acute on chronic respiratory acidosis with
   very elevated PCO2. On FiO2 of 40% at rehab, now requiring increasing
   FiO2 to 100%. Pt dysynchronous with vent so paralyzed with
   cisatricurium, though minimal improvement in ventilation. Yesterday
   sats improved with amps of bicarb for acidosis and pressors to keep
   SBP>110. This am, PEEP was increased again to 14 due to de-sat while
   turning on current setting with ABG that showed worsening acidosis,
   hypoxia.
   - STAT chest xray to rule out ptx
   - Continue FiO2 100%, wean PEEP
   - continue cisatricurium
   - infectious w/u
   - contineu inhaled tobramycin
   - continue abx including tobramycin for resistant pseudomonas
   - albuterol, ipratropium bronchodilators standing
   - AC/CMV, goal sats 92%
   # Septic shock: On neosyn, levophed, vasopressin. WBC continues to
   climb. Vanco still supratherapeutic. Known resistant pseudomonas. Have
   started inhaled and IV tobra. Also has a 3-4cm deep ulcer on right
   flank, no purulent fluid expressed, but concerning for site of
   infection.
   - Continue pressors, bolus with IVFs prn (U/O decreasing or MAP<65)
   - Wean neo, continue levo/vaso. If BP dropping consider dobutamine
   - Follow lactic acid from serial ABGs
   - Continue IV tobra, adjust dose per pharmacy recs (200mg Q72h with
   peaks and troughs)
   - Cont meropenem. Vanco still supratherapeutic
   - F/u cultures
   - Consider [**Doctor First Name **] c/s for ulcer on back when more stable for turning
   - resend blood, urine cultures
    # Anemia: Hct has slowly decreased from 29 to 22.   Hemolysis labs
   negative.
   - ck retic count, may have component of BM suppression
   - recheck hct, transfuse if hct<20
   - guaiac stools
   - type and screen
   # Altered mental status/Disconjugate gaze: unclear baseline, neg RPR,
   nl [**Name (NI) 8013**] and B12. Continue infectious treatment as above.
   - d/c benzos
   - CT head if stable
   - fentanyl patch still on before paralysis initiated therefore keep on
   - EEG ordered to assess for sz
   # R flank ulcer: From prior chest tube. Seen by wound care who
   recommended surgical consult. Possible source of infection.
   - continue [**Last Name (un) **]
   - F/u cultures
   # Hypernatremia: Resolved.
   - Continue free water in tube feeds
   # Chronic kidney injury:  Cr of 1.3 is improved from creatinine at last
   discharge of 2 and has had elevated Cr during recent hospitalizations.
   Cr baseline was 0.6 in [**2178-8-5**].  History of AIN. Now with Cr 0.8.
   - renally dose meds
   - continue to trend creatinine
   - bolus IVF prn u/o
    # Atrial fibrillation:  Was on metoprolol at rehab for rate control,
   not on warfarin secondary to history of RP bleed.  CHADS score of 0.
   - holding metoprolol in setting of hypotension
   ICU Care
   Nutrition: TF held for high residuals, KUB negative for gas
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM
   PICC Line - [**2178-10-6**] 01:04 PM
   22 Gauge - [**2178-10-7**] 07:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2178-10-11 10:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50M COPD, fibrosis, morbid obesity - p/w fever, UTI/PICC infection
   worsening academia, respiratory status.
   24 Hour Events:
   Yesterday required amps/drip bicarb for improvement in acidemia and
   response to pressors; currently weaning neo (but continues on
   levo/vasopressin); remained difficult to ventilate
   Hct down to 22 - ordered for 1UPRBCs
   This am: worsening hypoxemia after turning (persistently 80s) - await
   stat CXR to r/o PTX
                   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2178-10-9**] 06:00 PM
   Meropenem - [**2178-10-11**] 06:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Cisatracurium - 0.3 mg/Kg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2178-10-10**] 04:05 PM
   Lansoprazole (Prevacid) - [**2178-10-11**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2178-10-11**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-11**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 93 (87 - 98) bpm
   BP: 135/91(107) {81/54(64) - 154/94(115)} mmHg
   RR: 24 (24 - 34) insp/min
   SpO2: 47%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 160 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  6,528 mL
                                                                  3,075 mL
   PO:
             TF:
   IVF:
                                                                  4,758 mL
                                                                  2,655 mL
   Blood products:
   Total out:
                                                                  1,862 mL
                                                                    890 mL
   Urine:
                                                                    942 mL
                                                                    640 mL
   NG:
                                                                    920 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  4,666 mL
                                                                  2,185 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 13 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 43 cmH2O
   Plateau: 41 cmH2O
   Compliance: 16.7 cmH2O/mL
   SpO2: 47%
   ABG: 7.18/110/54/39/8
   Ve: 16.2 L/min
   PaO2 / FiO2: 54
   Physical Examination
   GEN: Morbidly obese
   HEENT: Disconjugate gaze, minimally reactive pupils.
   PULM: Diffuse rhonchi, crackles.
   CV:  Reg, no M appreciated.
   ABD: Obese, soft.
   EXT:  Minimal edema
   Labs / Radiology
   6.5 g/dL
   212 K/uL
   132 mg/dL
   0.8 mg/dL
   39 mEq/L
   3.8 mEq/L
   22 mg/dL
   94 mEq/L
   136 mEq/L
   22.5 %
   19.7 K/uL
        [image002.jpg]
                             [**2178-10-10**]  04:45 AM
                             [**2178-10-10**]  04:58 AM
                             [**2178-10-10**]  11:05 AM
                             [**2178-10-10**]  12:23 PM
                             [**2178-10-10**]  02:53 PM
                             [**2178-10-10**]  05:17 PM
                             [**2178-10-10**]  09:23 PM
                             [**2178-10-11**]  04:48 AM
                             [**2178-10-11**]  05:02 AM
                             [**2178-10-11**]  09:29 AM
   WBC
   19.4
   19.7
   Hct
   25.4
   22.5
   Plt
   226
   212
   Cr
   0.9
   0.8
   TCO2
   37
   33
   34
   37
   38
   40
   44
   43
   Glucose
   109
   132
   Other labs: PT / PTT / INR:15.2/37.1/1.3, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:16/44, Alk Phos / T Bili:114/0.3,
   Differential-Neuts:79.0 %, Band:1.0 %, Lymph:9.0 %, Mono:5.0 %, Eos:1.0
   %, Lactic Acid:2.6 mmol/L, Albumin:2.1 g/dL, LDH:314 IU/L, Ca++:8.0
   mg/dL, Mg++:1.6 mg/dL, PO4:4.6 mg/dL
   Microbiology: Pseudomonas - S to tobra
   Urine - klebs (initially)
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE on CHRONIC
 persistent hypoxemia despite
   increased FiO2 and PEEP, increasing hypercapnea
 suspect in part [**3-9**]
   pulmonary edema
   - Short trial increased PEEP this morning, though Pips/plats elevated;
   little room to move with ventilator.
   - Will attempt to diurese today.
   - Treating PsA PNA
   - Cont bronchodilators
 SEPSIS WITHOUT ORGAN DYSFUNCTION, possible cardiogenic component
   given RV dilation/failure
   - [**Month (only) 11**] consider dobutamine if levo/vaso ineffective.
   - wbc climbing (known klebs UTI, PsA PNA); wound cultures
   - continuing vanco (has had supratx level), [**Last Name (un) **], tobramycin (IV).
 ANEMIA, OTHER: Hct slowly trending down to 22
   - Transfusion goal 20, checking repeat Hct, retic
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   - Currently paralyzed, difficult to assess.
 IMPAIRED SKIN INTEGRITY
   - Wound on back; nothing from cx; surgical evaluation had been
   considered by team last week; but unable to turn safely (and currently
   little role for surgical intervention given instability)
   Resolved:  hypernatremia
   ICU Care
   Nutrition:  Has not been getting TF, high residuals; hold for now.
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM
   PICC Line - [**2178-10-6**] 01:04 PM
   22 Gauge - [**2178-10-7**] 07:48 PM
   Prophylaxis:
   DVT:  Hep SC
   Stress ulcer:  PPI
   VAP:  HOB, etc.
   Comments:
   Communication:  Comments:  Awaiting arrival brother.
   [**Name (NI) 129**] status: Full code
   Disposition : Pt remains critically ill
   Total time spent: 50 minutes

2178-10-12 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**10-11**]
   Redosed tobra
   Gave lasix 80IV q6 with good response
   Weaned off neo and vasopressin. Still on levophed 0.08.
   Weaned PEEP to 10.
   24 Hour Events:
   pt this AM was severely hypoxic and BP dropped, trial of dobutamine
   instead of levo failed, pt was then restarted on levo, PEEP increased
   up to 12 without improvement
   -hypoxia cotinued to worsen, ABG with 7.18/115/36, BP in 70s, maximum
   dose of levo/vassopressin/neo, 4 amps bicarb given
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2178-10-12**] 12:00 AM
   Meropenem - [**2178-10-12**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2178-10-11**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2178-10-12**] 12:20 AM
   Furosemide (Lasix) - [**2178-10-12**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-12**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 98 (93 - 99) bpm
   BP: 108/67(79) {90/57(67) - 139/91(107)} mmHg
   RR: 34 (24 - 34) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 160 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  5,137 mL
                                                                    971 mL
   PO:
             TF:
   IVF:
                                                                  4,367 mL
                                                                    971 mL
   Blood products:
   Total out:
                                                                  4,136 mL
                                                                  2,170 mL
   Urine:
                                                                  3,606 mL
                                                                  2,170 mL
   NG:
                                                                    530 mL
   Stool:
   Drains:
   Balance:
                                                                  1,001 mL
                                                                 -1,199 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Sao2 < 90%, Neuromusc Block
   PIP: 40 cmH2O
   Plateau: 34 cmH2O
   Compliance: 21.4 cmH2O/mL
   SpO2: 88%
   ABG: 7.26/103/60/40/14
   Ve: 13.4 L/min
   PaO2 / FiO2: 60
   Physical Examination
   Intubated, sedated, paralyzed, obese
   Chest- rhonchi bilaterally
   CV- rrr, no m
   Abd- soft, NT, ND
   Ext- edema
   Labs / Radiology
   185 K/uL
   6.6 g/dL
   91 mg/dL
   0.8 mg/dL
   40 mEq/L
   3.7 mEq/L
   22 mg/dL
   93 mEq/L
   137 mEq/L
   22.0 %
   16.6 K/uL
        [image002.jpg]
                             [**2178-10-10**]  09:23 PM
                             [**2178-10-11**]  04:48 AM
                             [**2178-10-11**]  05:02 AM
                             [**2178-10-11**]  09:29 AM
                             [**2178-10-11**]  11:48 AM
                             [**2178-10-11**]  03:15 PM
                             [**2178-10-11**]  05:06 PM
                             [**2178-10-11**]  10:33 PM
                             [**2178-10-12**]  04:21 AM
                             [**2178-10-12**]  04:32 AM
   WBC
   19.7
   16.6
   Hct
   22.5
   22.5
   22.0
   Plt
   212
   185
   Cr
   0.8
   0.8
   0.8
   TCO2
   40
   44
   43
   42
   43
   46
   48
   Glucose
   132
   91
   Other labs: PT / PTT / INR:16.5/38.7/1.5, CK / CKMB /
   Troponin-T:48/7/0.12, ALT / AST:[**Telephone/Fax (1) 8137**], Alk Phos / T Bili:152/0.5,
   Differential-Neuts:79.0 %, Band:1.0 %, Lymph:9.0 %, Mono:5.0 %, Eos:1.0
   %, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL, LDH:873 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Wound cx, prelim- no growth
   Assessment and Plan
 INEFFECTIVE COPING
 BRADYCARDIA
 HYPERNATREMIA (HIGH SODIUM)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   Mr. [**Known lastname 6949**] is a 51 year-old man with a history of chronic hypercapneic
   respiratory failure s/p trach, COPD, and morbid obesity who presented
   from [**Hospital **] Rehab with urosepsis, coag neg staph bacteremia and
   possible pneumonia superimposed on severe lung disease.
   # Hypoxic/Hypercapneic respiratory failure: Likely multifactoral
   respiratory failure secondary to obstructive COPD and restrictive lung
   disease and obesity hypoventilation. Overnight worsening respiratory
   failure. ABG w worsening acute on chronic respiratory acidosis with
   very elevated PCO2. On FiO2 of 40% at rehab, now requiring increasing
   FiO2 to 100%. Pt dysynchronous with vent so paralyzed with
   cisatricurium, though minimal improvement in ventilation. Yesterday
   sats improved with amps of bicarb for acidosis and pressors to keep
   SBP>110. This am, PEEP was increased again to 12 due to de-sat while
   turning on current setting with ABG that showed worsening acidosis,
   hypoxia. Hypoxia now worsening with PO2 in 30s on last ABG.
   - Continue FiO2 100%
   - continue cisatricurium
   - infectious w/u
   - continue inhaled and IV tobramycin for resistant pseudomonas
   - albuterol, ipratropium bronchodilators standing
   - AC/CMV, goal sats 92%
   - bicarb as needed
   - very poor prognosis
   # Septic shock: On neosyn, levophed, vasopressin. WBC continues to
   climb. Vanco still supratherapeutic. Known resistant pseudomonas. On
   inhaled and IV tobra. Also has a 3-4cm deep ulcer on right flank, no
   purulent fluid expressed, but concerning for site of infection.
   - Continue pressors, bolus with IVFs (U/O decreasing or MAP<65)
   - Follow lactic acid from serial ABGs
   - Continue IV tobra, adjust dose per pharmacy recs
   - Cont meropenem. Vanco still supratherapeutic
   - F/u cultures
    # Anemia: Hct has slowly decreased from 29 to 22.   Hemolysis labs
   negative. Hct stable
   - transfuse if hct<20
   - guaiac stools
   - type and screen
   # Altered mental status/Disconjugate gaze: unclear baseline, neg RPR,
   nl [**Name (NI) 8013**] and B12. Continue infectious treatment as above. Now with
   prolonged hypoxia
   - poor prognosis
   - CT head if stable
   - fentanyl patch still on before paralysis initiated therefore keep on
   - EEG ordered to assess for sz
   # R flank ulcer: From prior chest tube. Seen by wound care who
   recommended surgical consult. Possible source of infection.
   - continue [**Last Name (un) **]
   - F/u cultures
   # Hypernatremia: Resolved.
   - Continue free water in tube feeds
   # Chronic kidney injury:  Cr of 1.3 is improved from creatinine at last
   discharge of 2 and has had elevated Cr during recent hospitalizations.
   Cr baseline was 0.6 in [**2178-8-5**].  History of AIN. Now with Cr
   normalized.
   - renally dose meds
   - continue to trend creatinine
   - bolus IVF prn u/o
    # Atrial fibrillation:  Was on metoprolol at rehab for rate control,
   not on warfarin secondary to history of RP bleed.  CHADS score of 0.
   - holding metoprolol in setting of hypotension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM
   PICC Line - [**2178-10-6**] 01:04 PM
   22 Gauge - [**2178-10-7**] 07:48 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: PPI
   VAP:  mouth care, elevation of head of bed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, poor prognosis

2178-10-12 11:17:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI:
   24 Hour Events:
   Overnight events - tobra dose adjusted.
   BPs tolerated, and pressors weaned until this morning, when, BPs and O2
   sats dropped this morning, returned to levo/dopa.
   Short trials of increased PEEP, with little response.
   Becoming progressively hypotensive,
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2178-10-12**] 12:00 AM
   Meropenem - [**2178-10-12**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Cisatracurium - 0.3 mg/Kg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2178-10-12**] 06:00 AM
   Heparin Sodium (Prophylaxis) - [**2178-10-12**] 08:02 AM
   Lansoprazole (Prevacid) - [**2178-10-12**] 08:02 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2178-10-12**] 10:57 AM
   Other medications:
   Getting prn bicarb.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-12**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 105 (94 - 120) bpm
   BP: 83/56(64) {83/56(64) - 127/78(92)} mmHg
   RR: 34 (31 - 34) insp/min
   SpO2: 65%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 160 kg (admission): 154 kg
   Height: 74 Inch
             Total In:
                                                                  5,137 mL
                                                                  1,859 mL
   PO:
             TF:
   IVF:
                                                                  4,367 mL
                                                                  1,709 mL
   Blood products:
   Total out:
                                                                  4,136 mL
                                                                  2,970 mL
   Urine:
                                                                  3,606 mL
                                                                  2,970 mL
   NG:
                                                                    530 mL
   Stool:
   Drains:
   Balance:
                                                                  1,001 mL
                                                                 -1,111 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Sao2 < 90%, Neuromusc Block
   PIP: 37 cmH2O
   Plateau: 35 cmH2O
   Compliance: 21.4 cmH2O/mL
   SpO2: 65%
   ABG: 7.18/115/36/40/9
   Ve: 13.7 L/min
   PaO2 / FiO2: 36
   Physical Examination
   GEN: morbidly obese, on ventilator, unarousable
   HEENT:  Pupils non responsive, disconjugate gaze
   PULM: Diffuse rhonchi
   CV: Tachy, no M
   ABD:  Obese, soft
   EXT:  Cool
   Labs / Radiology  CXR:  bilateral patchy opacities, unchanged.
   6.6 g/dL
   185 K/uL
   91 mg/dL
   0.8 mg/dL
   40 mEq/L
   3.7 mEq/L
   22 mg/dL
   93 mEq/L
   137 mEq/L
   22.0 %
   16.6 K/uL
        [image002.jpg]
                             [**2178-10-11**]  04:48 AM
                             [**2178-10-11**]  05:02 AM
                             [**2178-10-11**]  09:29 AM
                             [**2178-10-11**]  11:48 AM
                             [**2178-10-11**]  03:15 PM
                             [**2178-10-11**]  05:06 PM
                             [**2178-10-11**]  10:33 PM
                             [**2178-10-12**]  04:21 AM
                             [**2178-10-12**]  04:32 AM
                             [**2178-10-12**]  10:35 AM
   WBC
   19.7
   16.6
   Hct
   22.5
   22.5
   22.0
   Plt
   212
   185
   Cr
   0.8
   0.8
   0.8
   TCO2
   44
   43
   42
   43
   46
   48
   45
   Glucose
   132
   91
   Other labs: PT / PTT / INR:16.5/38.7/1.5, CK / CKMB /
   Troponin-T:12/7/0.12, ALT / AST:[**Telephone/Fax (1) 8137**], Alk Phos / T Bili:152/0.5,
   Differential-Neuts:79.0 %, Band:1.0 %, Lymph:9.0 %, Mono:5.0 %, Eos:1.0
   %, Lactic Acid:2.2 mmol/L, Albumin:2.1 g/dL, LDH:873 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Microbiology: No new culture data.
   Known pseudomonas in sputum.
   Assessment and Plan
   Hypoxemic, hypercapneic respiratory failure with large dead space and
   little respiratory reserve given underlying fibrosis, COPD and PNA
   has made very small progress, with this morning acute worsening in
   hypoxemia and rising CO2, despite maximal ventilatory support, as well
   as maximal pressor therapy, and s/p trial treatment with lasix without
   improvement in O2 sats and ventilation
   - continuing maximal ventilatory support, paralysis
   - continue abx
   - continue bronchodilators.
   - poor prognosis due to sustained hypoxemia; family made aware of
   likely imminent cardiovascular collapse
   Septic shock
 now on triple pressors (levo, vaso, neo)
 with little
   response in BP despite pushing bicarb
 likely secondary to PNA,
   continuing on tobramycin/vanco/meropenem (with vanc doses on hold for
   supratherapeutic vanc level).
   LFT abnormalities
 sudden rise in LFT abnormalities (with normal GGT,
   CK)
 suspect early manifestations of shock liver.
   Altered mental status
 continues to require paralysis.
   ICU Care
   Nutrition:  Tube feeds
 currently NPO
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-10-1**] 10:28 PM
   PICC Line - [**2178-10-6**] 01:04 PM
   22 Gauge - [**2178-10-7**] 07:48 PM
   Prophylaxis:
   DVT:   Hep SC
   Stress ulcer: PPI
   VAP:  HOB elevated, etc.
   Comments:
   Communication:  Comments:  I have spoken with [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3231**] to update
   regarding his situation as I do not think he will survive the day
   Code status: Full code
   Disposition : ICU
   Total time spent:  40 mins